US06716859B2
5-Nitro-2-phenoxy-benzoic acid (3-trifluoromethyl-benzylidene)-hydrazide
A mixture of 5-nitro-2-phenoxy-benzoic acid methyl ester (4.0 g, 14.7 mmol) and hydrazine (5 mL, 80%) was refluxed for 4 h to yield 5-nitro-2-phenoxy-benzoic acid hydrazide (2.97 g, 74%). The title compound was prepared from 5-nitro-2-phenoxy-benzoic acid hydrazide and 3-trifluoromethyl-benzaldehyde by a procedure similar to Example 22. 1H NMR (DMSO-d6): 12.20 (s, 1H), 8.52 (s, 1H), 8.43 (s, 1H), 8.35 (d, J=7.2 Hz, 1H), 8.17 (s, 1H), 8.10 (d, J=6.6 Hz, 1H), 7.81 (m, 1H), 7.75 (t, J=6.6 Hz, 1H), 7.54 (t, J=7.2 Hz, 1H), 7.35 (m, 2H), 7.27 (d, =J=7.2 Hz, 1H), 7.03 (m, 2H).

reactant | 5-nitro-2-phenoxy-benzoic acid hydrazide | [N+](=O)([O-])C=1C=CC(=C(C(=O)NN)C1)OC1=CC=CC=C1 | C13H11N3O4
reactant | 3-trifluoromethyl-benzaldehyde | FC(C=1C=C(C=O)C=CC1)(F)F | C8H5F3O
product | 5-Nitro-2-phenoxy-benzoic acid (3-trifluoromethyl-benzylidene)-hydrazide | FC(C=1C=C(C=NNC(C2=C(C=CC(=C2)[N+](=O)[O-])OC2=CC=CC=C2)=O)C=CC1)(F)F | C21H14F3N3O4
